US07479562B2
1-[3-(tert-Butyldimethylsilanyloxy)propyl]imidazolidin-2-one
N-(3-hydroxypropyl)ethylenediamine (19.9 g, 168 mmol), DIPEA (87 mL, 504 mmol, 3.0 eq) were dissolved in 500 mL DMF, followed by the addition of 1,1-carbonyldiimidazole (27.3 g, 168 mmol, 1.0 eq). The reaction was allowed to stir at 50° C. overnight. After overnight, the reaction was cooled to room temperature and TBSCl (25.2 g, 168 mmol, 1.0 eq) was added. The mixture was allowed to stir at room temperature for 3 hours. The reaction was then condensed in vacuo at 40° C. and the obtained residue was then taken into DCM (500 mL). The organic phase was washed with water (2×500 mL) and then with brine (500 mL), dried over MgSO4, filtered and concentrated to afford the title compound as a light yellow solid (42.8 g) in 98% yield.

reactant | N-(3-hydroxypropyl)ethylenediamine | 168 mmol, 19.9 g | OCCCNCCN | C5H14N2O
reactant | DIPEA | 504 mmol, 87 mL, 3.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | TBSCl | 168 mmol, 25.2 g, 1.0 eq | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | DCM | 500 mL | C(Cl)Cl | CH2Cl2
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 1-[3-(tert-Butyldimethylsilanyloxy)propyl]imidazolidin-2-one | 42.8 g, 98% yield | [Si](C)(C)(C(C)(C)C)OCCCN1C(NCC1)=O | C12H26N2O2Si
